US07534914B2
STEP 1. Methyl 2-chloro-5-fluoronicotinate
To a solution of 2-chloro-5-fluoronicotinic acid (5.2 g, 30 mmol) in methanol (20 ml) was added conc. sulfuric acid (0.5 ml) and the reaction mixture was stirred at reflux for 30 hours. The reaction mixture was cooled to 0° C. and 0.5 N sodium hydroxide solution was added to the mixture. The whole was extracted with diethylether. The organic phase was washed with brine, dried (sodium sulfate), and concentrated to afford 3.2 g (25%) of the title compound:

reactant | 2-chloro-5-fluoronicotinic acid | 30 mmol, 5.2 g | ClC1=C(C(=O)O)C=C(C=N1)F | C6H3ClFNO2
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 0.5 N | [OH-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
product | Methyl 2-chloro-5-fluoronicotinate | 3.2 g, 25% | ClC1=C(C(=O)OC)C=C(C=N1)F | C7H5ClFNO2
